US08420816B2
Step B: (R)-2-(6-chloro-3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-cyano-N-cyclopentylpropanamide
A mixture of (R)-5-chloro-4-((3-cyano-1-(cyclopentylamino)-1-oxopropan-2-ylamino)methyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid, THF (5 mL), HATU (28.6 mg, 0.075 mmol) and 4-methylmorpholine (19.01 mg, 0.188 mmol) was stirred at room temperature for 2 h. The product was purified via preparative mass trigger LC-MS (AcCN/H2O, 5-90%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound. [M+H] calc'd for C25H24ClN5O4S, 526; found, 526.2.

reactant | (R)-5-chloro-4-((3-cyano-1-(cyclopentylamino)-1-oxopropan-2-ylamino)methyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | ClC=1C(=C2C(=NC1)N(C=C2C(=O)O)S(=O)(=O)C2=CC=C(C)C=C2)CN[C@@H](C(=O)NC2CCCC2)CC#N | C25H26ClN5O5S
reactant | HATU | 0.075 mmol, 28.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.188 mmol, 19.01 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-2-(6-chloro-3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-cyano-N-cyclopentylpropanamide | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)NC1CCCC1)CC#N)=O)=CN2S(=O)(=O)C2=CC=C(C)C=C2 | C25H24ClN5O4S
